US08865736B2
2-[(5-Chloro-1,3-benzothiazol-2-yl)methoxy]isonicotinonitrile
2-Hydroxy-4-cyano-pyridine (240 mg, 2 mmol, 1 equiv.) was dissolved in DMF (6 ml), K2CO3 (415 mg, 3 mmol, 1.5 equiv.) and NaI (60 mg, 0.4 mmol, 0.2 equiv.) were added and the mixture was stirred at r.t. for 10 min. 5-Chloro-2-(chloromethyl)-1,3-benzothiazole (436 mg, 2 mmol, 1 equiv.) was added and the reaction mixture was stirred at 60° C. for 3 h and at r.t. overnight. By addition of H2O, brown solid precipitated, which was filtered, rinsed with H2O, dried and re-crystallised from CH3CN. Yield 280 mg (46%), mp 224-227° C., HPLC-MS (method 1): m/z 302 [M+H]+, Rt=3.80 min. By 13C-NMR analysis it was identified to be the N-alkylated derivative (Scheme 24). The DMF-H2O mother liquors were evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica, eluted with EtOAc/hexane (10%-100% gradient) to give 45 mg (7.5% yield) of a brown solid, HPLC-MS (method 1): m/z 302 [M+H]+, Rt=4.86 min. By 13C-NMR analysis, it was identified to be the desired O-alkylated derivative (Scheme 24).

reactant | 2-Hydroxy-4-cyano-pyridine | 2 mmol, 240 mg, 1 equiv. | OC1=NC=CC(=C1)C#N | C6H4N2O
reactant | K2CO3 | 3 mmol, 415 mg, 1.5 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.4 mmol, 60 mg, 0.2 equiv. | [Na+].[I-]
reactant | 5-Chloro-2-(chloromethyl)-1,3-benzothiazole | 2 mmol, 436 mg, 1 equiv. | ClC=1C=CC2=C(N=C(S2)CCl)C1 | C8H5Cl2NS
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-[(5-Chloro-1,3-benzothiazol-2-yl)methoxy]isonicotinonitrile | 45 mg, 7.5% yield | ClC=1C=CC2=C(N=C(S2)COC=2C=C(C#N)C=CN2)C1 | C14H8ClN3OS
